US05574055
(RS)-3-[4(trans-4-Hydroxy-cyclohexyl)-phenyl]-5-methoxymethyl-oxazolidin-2-one
5.0 g (16.44 mmol) of (RS)-5-methoxymethyl-3-[4-(4-oxo-cyclohexyl)-phenyl]-oxazolidin-2-one were dissolved in 150 ml of ethanol while heating and, after cooling, treated while stirring with 620 mg (16.4 mmol) of sodium borohydride, cooled overnight and the solvent was subsequently distilled off. The oily residue obtained was treated with water and 1N hydrochloric acid and the reaction product was taken up in ethyl acetate. The organic phase was washed with water, dried over magnesium sulfate and the solvent was distilled off. The colorless oil obtained (5.3 g) was dissolved in ethyl acetate, treated with hexane until turbid and the separated precipitate was filtered off under suction after 1 hour. 3.3 g of an alcohol which was uniform in the nmr spectrum were obtained. M.p. 109°-110°.

reactant | (RS)-5-methoxymethyl-3-[4-(4-oxo-cyclohexyl)-phenyl]-oxazolidin-2-one | 16.44 mmol, 5.0 g | COCC1CN(C(O1)=O)C1=CC=C(C=C1)C1CCC(CC1)=O | C17H21NO4
reactant | sodium borohydride | 16.4 mmol, 620 mg | [BH4-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | (RS)-3-[4(trans-4-Hydroxy-cyclohexyl)-phenyl]-5-methoxymethyl-oxazolidin-2-one | O[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)N1C(OC(C1)COC)=O | C17H23NO4
